US07071223B1
(F) 2-Chloro-N-(1-hydroxy-cycloheptylmethyl)-5-[4-(2-methoxy-ethyl)-5-oxo-4,5-dihydro-[1,2,4]triazol-1-yl]-benzamide
A slurry of 2-Chloro-N-(1-hydroxy-cycloheptylmethyl)-5-(5-oxo-4,5-dihydro-[1,2,4]triazol-1-yl)-benzamide (44.4 mg, 0.122 mmol) and Cs2CO3 (66.0 mg, 0.202 mmol) were stirred in DMSO (0.813 mL) at ambient temperature for 20 minutes. 2-Bromoethyl methyl ether (17.0 mg, 0.122 mmol) was added and the reaction stirred at ambient temperature for 48 hours. The reaction was diluted with water (15-fold) and the aqueous extracted with CH2Cl2 (3×). The organics were dried over sodium sulfate, and concentrated in vacuo. The crude was purified by reverse phase HPLC reverse phase HPLC using a (25–65% gradient of 0.1% formic acid in acetonitrile and 0.1% formic acid in water) (to give the title compound (18 mg). LCMS (m/z) 423.5 M+1.

reactant | 2-Chloro-N-(1-hydroxy-cycloheptylmethyl)-5-(5-oxo-4,5-dihydro-[1,2,4]triazol-1-yl)-benzamide | 0.122 mmol, 44.4 mg | ClC1=C(C(=O)NCC2(CCCCCC2)O)C=C(C=C1)N1N=CNC1=O | C17H21ClN4O3
reactant | Cs2CO3 | 0.202 mmol, 66.0 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 2-Bromoethyl methyl ether | 0.122 mmol, 17.0 mg | COCCBr | C3H7BrO
solvent | DMSO | 0.813 mL | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 2-Chloro-N-(1-hydroxy-cycloheptylmethyl)-5-[4-(2-methoxy-ethyl)-5-oxo-4,5-dihydro-[1,2,4]triazol-1-yl]-benzamide | 18 mg | ClC1=C(C(=O)NCC2(CCCCCC2)O)C=C(C=C1)N1N=CN(C1=O)CCOC | C20H27ClN4O4
